US08022206B2
(R)-1-(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol
A mixture of 3-chloro-6-hydrazinopyridazine (1.44 g, 9.96 mmol), (R)-2-hydroxypropanoic acid (0.90 g, 10 mmol, i.e. D-lactic acid) and p-TsOH.H2O (2.37 g, 12.4 mmol) in toluene was refluxed overnight. Some oil was formed at the bottom of the flask. LC-MS of this oil showed the desired product was formed. Toluene was poured off, and the oil residue was suspended in water (10 mL), then basified with 3 N aq. NaOH to pH=10. This aqueous solution was extracted with EtOAc (3×30 mL), and the combined organic phases were washed with brine (20 mL), and dried over anhydrous sodium sulfate. Evaporation under reduced pressure afforded the title compound as an off-white solid. MS (ES+): 199/201 (3/1) [MH+]. 1H NMR (400 MHz, CDCl3): δ=1.88 (d, J=6.8 Hz, 3H), 2.97 (d, J=6.8 Hz, 1H, —OH), 5.51 (m, 1H), 7.15 (d, J=9.6 Hz, 1H), 8.11 (d, J=9.6 Hz, 1H).

reactant | 3-chloro-6-hydrazinopyridazine | 9.96 mmol, 1.44 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | (R)-2-hydroxypropanoic acid | 10 mmol, 0.90 g | O[C@@H](C(=O)O)C | C3H6O3
reactant | p-TsOH.H2O | 12.4 mmol, 2.37 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol | ClC=1C=CC=2N(N1)C(=NN2)[C@@H](C)O | C7H7ClN4O
